US07723333B2
tert-Butyl (1-pyridazin-3-ylpiperidin-4-yl)carbamate
tert-Butyl [1-(6-chloropyridazin-3-yl)piperidin-4-yl]carbamate (0.5 g, 1.60 mmol) was dissolved in MeOH (20 ml) and cooled to 0° C. with an icebath. 10% Pd/C (60 mg) was added carefully. Ammonium formate (0.30 g, 4.80 mmol) was added and the reaction mixture was heated to 40° C. Ammonium formate (0.604 g, 9.59 mmol) was added in portions during the reaction, after 33 h at 40° C. the reaction mixture was filtered through celite and the celite was washed with MeOH (20 ml). The reaction mixture was evaporated and the residue was diluted with EtOAc (100 mL) and washed with water (200 ml). The organic phase was dried (Na2SO4) filtered and evaporated. The residue was purified by silica gel column chromatography using a 98:2 mixture of DCM:MeOH to give the title compound as a solid (0.25 g, 57%). 1H NMR (CDCl3, 500 MHz): δ 8.52-8.47 (m, 1H), 7.17-7.11 (m, 1H), 6.91-6.84 (m, 1H), 4.67-4.57 (m, 1H), 4.30-4.21 (m, 2H), 3.75-3.62 (m, 1H), 3.09-2.99 (m, 2H), 2.05-1.96 (m, 2H), 1.46-1.35 (m, 2H), 1.40 (s, 9H); 13C NMR (CDCl3, 125 MHz): δ 160.0, 155.4, 143.3, 127.5, 112.7, 79.6, 48.2, 44.3, 32.1, 28.6.

reactant | tert-Butyl [1-(6-chloropyridazin-3-yl)piperidin-4-yl]carbamate | 1.60 mmol, 0.5 g | ClC1=CC=C(N=N1)N1CCC(CC1)NC(OC(C)(C)C)=O | C14H21ClN4O2
reactant | Ammonium formate | 4.80 mmol, 0.30 g | C(=O)[O-].[NH4+]
reactant | Ammonium formate | 9.59 mmol, 0.604 g | C(=O)[O-].[NH4+]
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | tert-Butyl (1-pyridazin-3-ylpiperidin-4-yl)carbamate | 0.25 g, 57% | N1=NC(=CC=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C14H22N4O2
